US09212182B2
To a solution of 1-(5-bromo-2-fluorophenyl)ethanone (Matrix Scientific, 3 g, 13.8 mmol), Xantphos (0.800 g, 1.38 mmol), and N,N-diisopropylethylamine (4.83 mL, 27.6 mmol) in 1,4-dioxane (15 mL) was added Pd2(dba)3 (0.633 g, 0.691 mmol). The vial was sparged with argon, sealed, and stirred at 80° C. for 10 minutes. After 10 minutes, the reaction was cooled to ambient temperature, and benzyl mercaptan (1.70 mL, 14.5 mmol) was added. The reaction was flushed with argon, sealed, and stirred at 80° C. After 45 minutes, the reaction mixture was concentrated, diluted with dichloromethane, and passed through a silica-gel pad, eluting with DCM. The filtrate was concentrated and purified by column chromatography, eluting with 10-60% ethyl acetate in heptane, to provide 1-(5-(benzylthio)-2-fluorophenyl)ethanone (3.6 g, quantative yield) as a yellow oil. m/z (ESI) 261.0 (M+H).

reactant | 1-(5-bromo-2-fluorophenyl)ethanone | 13.8 mmol, 3 g | BrC=1C=CC(=C(C1)C(C)=O)F | C8H6BrFO
reactant | N,N-diisopropylethylamine | 27.6 mmol, 4.83 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl mercaptan | 14.5 mmol, 1.70 mL | C(C1=CC=CC=C1)S | C7H8S
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.691 mmol, 0.633 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 1.38 mmol, 0.800 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-(5-(benzylthio)-2-fluorophenyl)ethanone | 3.6 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)C(C)=O)F | C15H13FOS
